US05192785
2-(Methylphenoxy)ethanol
The title compound was prepared by the procedure of Preparation 2 in 89% yield from 2-(methylphenoxy) acetic acid and lithium aluminum hydride.

reactant | 2-(methylphenoxy) acetic acid | CC1=C(OCC(=O)O)C=CC=C1 | C9H10O3
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 2-(Methylphenoxy)ethanol | 89% yield | CC1=C(OCCO)C=CC=C1 | C9H12O2
